US08114868B2
In a flame-dried three neck flask equipped with an addition funnel, magnetic stirring bar, rubber septum, and a nitrogen inlet, was placed LiAlH4 (3.12 g, 82.1 mmol) and THF (700 mL). After being cooled at 0° C., a solution of methyl 2-(2-isopropyl-1,3-dioxolan-2-yl)acetate (12 g, 63.8 mmol) in THF (160 mL) was added dropwise with stirring. The mixture was warmed to rt, and stirred for 24 hours. The reaction was quenched by adding water (5 mL), 15% aqueous NaOH (10 mL), and water (5 mL) slowly. The organic layer was separated, and the residue was extracted with EtOAc (3×100 mL). The combined organic phase was dried over Na2SO4, and concentrated to afford the crude product, which was purified by column chromatography to give 2-(2-isopropyl-1,3-dioxolan-2-yl)-ethanol (6.8 g, 67%). 1H NMR (CDCl3): δ 0.90 (d, J=6.8 Hz, 6H), 1.87-1.96 (m, 3H), 2.81 (br, 1H), 3.69-3.72 (m, 2H), 3.92-4.01 (m, 4H).

reactant | LiAlH4 | 82.1 mmol, 3.12 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 2-(2-isopropyl-1,3-dioxolan-2-yl)acetate | 63.8 mmol, 12 g | C(C)(C)C1(OCCO1)CC(=O)OC | C9H16O4
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 2-(2-isopropyl-1,3-dioxolan-2-yl)-ethanol | 6.8 g, 67% | C(C)(C)C1(OCCO1)CCO | C8H16O3
